US04259469
To a mixture of 24.00 g (0.089 mol) of N-(2-methyl-4-hydroxyphenyl)methanesulfonamide, 9.00 g (0.089 mol) of triethylamine, and 150 ml of methylene chloride cooled to approximately 0° C. was added a solution of 9.32 g (0.089 mol) of methacryloyl chloride in 150 ml of methylene chloride and 50 ml of methylene chloride wash over approximately 20 minutes. The reaction mixture was then stirred for another 4 hours at reduced temperature, after which it was washed with 2 percent hydrochloric acid and twice with water. The organic phase was dried over magnesium sulfate, treated with decolorizing carbon, filtered and concentrated to an oil, which crystallized on cooling. The solid was recrystallized from 1:1 dichloroethane:hexane to give 14.7 g (61.3 percent of theory) of N-(2-methyl-4-methacryloyloxyphenyl)methanesulfonamide, m.p.=95° to 97° C.

reactant | N-(2-methyl-4-hydroxyphenyl)methanesulfonamide | 0.089 mol, 24.00 g | CC1=C(C=CC(=C1)O)NS(=O)(=O)C | C8H11NO3S
reactant | triethylamine | 0.089 mol, 9.00 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.089 mol, 9.32 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methyl-4-methacryloyloxyphenyl)methanesulfonamide | 14.7 g, 61.3 percent | CC1=C(C=CC(=C1)OC(C(=C)C)=O)NS(=O)(=O)C | C12H15NO4S
